US06242452B1
A solution of 6-amino-5-formyl-1,3-diphenyluracil (5.0 g, 16.3 mmol) and 2-(triphenylphosphoranylidene)acetonitrile (5.9 g, 19.6 mmol) in anhydrous acetonitrile (100 mL) was heated to reflux for 24 hours in an argon stream. The reaction mixture was allowed to cool and the solvent was evaporated therefrom in vacuo. The crude crystals separated out therefrom were recrystallized from benzene to give 7-amino-1,2,3,4-tetrahydro-1,3-diphenylpyrido[2,3-d]pyrimidine-2,4-dione (2.4 g) in a 45% yield.

reactant | 6-amino-5-formyl-1,3-diphenyluracil | 16.3 mmol, 5.0 g | NC1=C(C(N(C(N1C1=CC=CC=C1)=O)C1=CC=CC=C1)=O)C=O | C17H13N3O3
reactant | 2-(triphenylphosphoranylidene)acetonitrile | 19.6 mmol, 5.9 g | C1(=CC=CC=C1)P(=CC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16NP
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 7-amino-1,2,3,4-tetrahydro-1,3-diphenylpyrido[2,3-d]pyrimidine-2,4-dione | 2.4 g, 45% yield | NC=1C=CC2=C(N(C(N(C2=O)C2=CC=CC=C2)=O)C2=CC=CC=C2)N1 | C19H14N4O2
